US08242104B2
4-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (1.05 g, 2.21 mmol) was partially dissolved in dry diethyleneglycol dimethyl ether (25 mL) and a solution of borane/THF complex (1M in THF, 13.2 mL, 13.2 mmol) was added dropwise. After stirring briefly at room temperature, the mixture was allowed to stand for 16 h. The mixture was then cooled in ice, and water (2 mL), 2M sodium hydroxide (6.5 mL) and 35% hydrogen peroxide (1.7 mL, 16.24 mmol) were added dropwise in sequence. The mixture was heated at 50° C. for 6 h, then cooled, diluted with water (approx. 45 mL) and extracted three times with ethyl acetate. The combined organic extracts were dried (Na2SO4) and concentrated. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-8.5% methanol in DCM) to give the crude product (0.78 g, 71%), containing approx. 20% of 4-hydroxypiperidine isomer which was recrystallised twice from ethyl acetate/methanol to give racemic-trans-3-Hydroxy-4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester containing <5% of the cis isomer (0.38 g). LCMS RT=4.44, [M+H]+=495. 1H NMR 400 MHz (DMSO-d6) δ: 8.39 (1H, d, J=8.25 Hz), 7.89 (1H, s), 7.47 (1H, d, J=2.62 Hz), 7.03 (1H, dd, J=8.29, 1.80 Hz), 6.77 (1H, s), 6.07-5.99 (1H, m), 4.37-4.37 (6H, m), 4.19-4.18 (1H, m), 3.73-3.73 (1H, m), 2.66-2.66 (3H, m), 1.81-1.81 (1H, m), 1.61 (6H, d, J=6.01 Hz), 1.50 (9H, s)

reactant | 4-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 2.21 mmol, 1.05 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1 | C26H32N6O3
reactant | borane THF | 13.2 mmol, 1M, 13.2 mL | B.C1CCOC1
reactant | sodium hydroxide | 2M, 6.5 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 16.24 mmol, 1.7 mL | OO | H2O2
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
solvent | diethyleneglycol dimethyl ether | 25 mL | COCCOCCOC | C6H14O3
solvent | water | approx. 45 mL | O | H2O
solvent | water | 2 mL | O | H2O
product | racemic-trans-3-Hydroxy-4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester | <5% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)O | C26H34N6O4
